US07851473B2
(6) 4-[4-(2-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (225 mg, 0.835 mmol), 1-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.760 mmol) and diisopropylethylamine (0.265 ml, 1.52 mmol) in dimethylsufoxide (2.5 ml) was stirred at 70° C. for 12 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulafate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give the desired product (90.9 mg, 31.2%) as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.835 mmol, 225 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.760 mmol, 200 mg | FC1=C(C=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.52 mmol, 0.265 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Water | O | H2O
product | 4-[4-(2-Fluorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide | 90.9 mg, 31.2% | FC1=C(C=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H18FN5OS
